US05237101
THPO-CH2C≡CH was treated with 1.1 equivalents of n-BuLi in THF at -78° C. for 0.5 hours and then 1.4 equivalents of paraformaldehyde ((CH2O)n) Over the course of 12 hours, the reaction was allowed to rise to 25° C. and a product isolated in 84% yield. This product was then treated with 1.6 equivalents of P(oct)3 in CCl4 at 25° C. for six hours, yielding THPO-CH2C≡CCH2Cl in 85% yield. This compound was then treated with 1.0 equivalents NA2S.9H2O in EtOH:H2O (10:1) at 25° C. for 12 hours. The product, which was isolated in 47% yield, was then treated with acetic acid (AcOH):H2O:THF (7:3:10) at 25° C. for 12 hours. The resulting product, which was isolated in 64% yield, was then treated with 3.0 equivalents of mCPBA in methylene chloride for 2 hours yielding a compound having structure (2) (R3 =R5 =H, R2 =R4 =CH2OH) in 40% yield.

reactant | THPO-CH2C≡CH | O(C1OCCCC1)CC#C | C8H12O2
reactant | n-BuLi | 1.1 equivalents | [Li]CCCC
reactant | paraformaldehyde | 1.4 equivalents | C=O | CH2O
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | C1CCOC1 | C4H8O
product | THPO-CH2C≡CCH2Cl | 85% yield | O(C1OCCCC1)CC#CCCl | C9H13ClO2
